US04409215
To a solution of benzhydryl 7-(2-phenylacetamido)-3-chloromethyl-3-cephem-4-carboxylate-1-oxide (25 g) in N,N-dimethylformamide (150 ml) were added triethylamine (6.42 ml) and 2-propene-1-thiol (8.0 ml), and the mixture was stirred at 25° C. for 3 hours. The reaction mixture was poured into a saturated aqueous solution of sodium chloride (1.5 l), followed by collecting the precipitated solid by filtration, which was washed with water and diisopropyl ether, and then dried to give benzhydryl 7-(2-phenylacetamido)-3-allylthiomethyl-3-cephem-4-carboxylate-1-oxide (24.2 g).

reactant | benzhydryl 7-(2-phenylacetamido)-3-chloromethyl-3-cephem-4-carboxylate-1-oxide | 25 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H25ClN2O5S
reactant | triethylamine | 6.42 ml | C(C)N(CC)CC | C6H15N
reactant | 2-propene-1-thiol | 8.0 ml | C(C=C)S | C3H6S
reactant | sodium chloride | 1.5 l | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-(2-phenylacetamido)-3-allylthiomethyl-3-cephem-4-carboxylate-1-oxide | 24.2 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)CSCC=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H30N2O5S2
